US07105547B2
1-[4-(5-Aminomethyl-2-oxo-oxazolidin-3-yl)-phenyl]-2,3-dihydro-1H-pyridin-4-one hydrochloride is prepared from {3-[4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-carbamic acid tert-butyl ester following the method described for Example 3 using 25% TFA in DCE. MS (m/z): 288 [M−HCl+H]+.

reactant | {3-[4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1CN(C(O1)=O)C1=CC=C(C=C1)N1CCC(C=C1)=O)=O | C20H25N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCE | ClCCCl | C2H4Cl2
product | 1-[4-(5-Aminomethyl-2-oxo-oxazolidin-3-yl)-phenyl]-2,3-dihydro-1H-pyridin-4-one hydrochloride | Cl.NCC1CN(C(O1)=O)C1=CC=C(C=C1)N1CCC(C=C1)=O | InChI=1S/C15H17N3O3.ClH/c16-9-14-10-18(15(20)21-14)12-3-1-11(2-4-12)17-7-5-13(19)6-8-17;/h1-5,7,14H,6,8-10,16H2;1H
